US04536391
To a mixture of 10.2 ml (73 mmols) of diisopropylamine and 35 ml of THF was added 27.5 ml (66 mmols) of hexane solution (2.4 mol dm-3 solution) of butyl lithium at 0° C. in argon atmosphere, and the mixture was stirred for 15 minutes and then cooled to -78° C. With addition of 20 ml of a solution of 8.07 ml (60 mmols) of t-butyl acetate in THF, the mixture was stirred for 30 minutes. Subsequently 30 ml of THF solution of 9.8 g (50 mmols) of α-bromo-p-tolunitrile was added. After stirring the mixture at -78° C. for 1 hour, 20 ml of saturated aqueous solution of NH4Cl was added to the mixture. The resulting mixture was heated to room temperature and diluted with 100 ml of water, followed by extraction with ether. The extract was dried over MgSO4 and concentrated to obtain an oil, which was subjected to silica gel column chromatography (90:10 hexane-ethyl acetate to 60:40 hexane-ethyl acetate), giving 9.8 g (yield 85%) of 4-(2-t-butoxycarbonylethyl)-benzonitrile in the form of an oil.

reactant | diisopropylamine | 73 mmols, 10.2 ml | C(C)(C)NC(C)C | C6H15N
reactant | hexane | 66 mmols, 2.4 mol dm-3, 27.5 ml | CCCCCC | C6H14
reactant | butyl lithium | C(CCC)[Li]
reactant | t-butyl acetate | 60 mmols, 8.07 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | α-bromo-p-tolunitrile | 50 mmols, 9.8 g | BrCC1=CC=C(C=C1)C#N | C8H6BrN
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 4-(2-t-butoxycarbonylethyl)-benzonitrile | 9.8 g, yield 85% | C(C)(C)(C)OC(=O)CCC1=CC=C(C#N)C=C1 | C14H17NO2
